US05705499
8-[2-(3-Azidophenyl)ethyl]-2chloro-5,11-dihydro-11ethyl-5methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
8-[2-(3-Aminophenyl)ethyl]-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.22 g, 0.54 mmol) was dissolved in 0.55 mL of concentrated hydrochloric acid. Water (2.8 mL) was added and the solution was cooled to 0° C. producing a precipitate. A solution of sodium nitrite (0.19 g, 2.75 mmol) in 8 mL of water was added dropwise. After 20 min, a solution of sodium azide (0.27 g, 4.15 mmol) in 3 mL of water was added in the dark. After 15 min, the product was extracted with ethyl acetate. Purification by flash chromatography, eluting with ethyl acetate/hexanes, and recrystallization (ether/petroleum ether) afforded 0.17 g of the title compound, m.p. 104°-105° C.

reactant | 8-[2-(3-Aminophenyl)ethyl]-2-chloro-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.54 mmol, 0.22 g | NC=1C=C(C=CC1)CCC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C22H22ClN5O
reactant | sodium nitrite | 2.75 mmol, 0.19 g | N(=O)[O-].[Na+]
reactant | sodium azide | 4.15 mmol, 0.27 g | [N-]=[N+]=[N-].[Na+]
solvent | hydrochloric acid | 0.55 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
solvent | water | 3 mL | O | H2O
solvent | Water | 2.8 mL | O | H2O
product | 8-[2-(3-Azidophenyl)ethyl]-2chloro-5,11-dihydro-11ethyl-5methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.17 g | N(=[N+]=[N-])C=1C=C(C=CC1)CCC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)Cl)CC)N=C1 | C22H20ClN7O
